US08039495B2
3-Bromomethyl-4-fluorobenzoic acid methyl ester (3.0 g, 12.1 mmol) was mixed with 4-iodophenol (3.2 g, 14.6 mmol) in acetone (75 mL) containing dry potassium carbonate (2.5 g, 18 mmol). The mixture was refluxed for 6 hrs and then filtered. The filtrate was concentrated and extracted with ether and water. The organic layer was dried over sodium sulfate and solvents were evaporated. The residue was purified through flash column chromatography (120 g silica gel, 0% to 20% ethyl acetate in hexanes over 40 minutes) to give clear oil as 4-fluoro-3-(4-iodophenoxy)methylbenzoic acid methyl ester (3.48 g, 74.4%).

reactant | 3-Bromomethyl-4-fluorobenzoic acid methyl ester | 12.1 mmol, 3.0 g | COC(C1=CC(=C(C=C1)F)CBr)=O | C9H8BrFO2
reactant | 4-iodophenol | 14.6 mmol, 3.2 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | potassium carbonate | 18 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 75 mL | CC(=O)C | C3H6O
product | 4-fluoro-3-(4-iodophenoxy)methylbenzoic acid methyl ester | 3.48 g, 74.4% | COC(C1=CC(=C(C=C1)F)COC1=CC=C(C=C1)I)=O | C15H12FIO3
